US08022062B2
Use a method similar to the General Procedure 5-2 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (200 mg, 0.47 mmol) with 4-(1-methyl-cyclohexylmethoxy)-benzylamine (120 mg, 0.51 mmol) in anhydrous 1,4-dioxane (7 mL). Purify the crude mixture by chromatography on silica gel eluting with isohexane/EtOAc (19:1 to 4:1 gradient) to obtain 7-chloro-6-[4-(1-methyl-cyclohexylmethoxy)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (101 mg, 39%).

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.47 mmol, 200 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 4-(1-methyl-cyclohexylmethoxy)-benzylamine | 0.51 mmol, 120 mg | CC1(CCCCC1)COC1=CC=C(CN)C=C1 | C15H23NO
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 7-chloro-6-[4-(1-methyl-cyclohexylmethoxy)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 101 mg, 39% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)OCC1(CCCCC1)C | C27H32ClF3N2O2
